US06900216B2
A mixture of methyl 4-bromobenzo[b]thiophene-2-carboxylate (101 g), sodium hydroxide (63 g), methanol (1200 ml) and water (600 ml) was stirred at ambient temperature for 16 hours, the methanol was removed in vacuo, and the resulting suspension was cooled to 0° C. and acidified by dropwise addition of concentrated hydrochloric acid. The mixture was stirred for 20 minutes and the resulting solid was collected by filtration, washed with water (3×250 ml) and dried in vacuo at 110-120° C. to give 4-bromobenzo[b]thiophene-2-carboxylic acid (62 g) as a cream solid which was used without further purification.

reactant | methyl 4-bromobenzo[b]thiophene-2-carboxylate | 101 g | BrC1=CC=CC=2SC(=CC21)C(=O)OC | C10H7BrO2S
reactant | sodium hydroxide | 63 g | [OH-].[Na+]
reactant | methanol | 1200 ml | CO | CH4O
solvent | water | 600 ml | O | H2O
product | 4-bromobenzo[b]thiophene-2-carboxylic acid | 62 g | BrC1=CC=CC=2SC(=CC21)C(=O)O | C9H5BrO2S
